US06531502B1
2-Isopropylphenol was methylated and then formylated to give 3-isopropyl-4-methoxybenzaldehyde. 3-Isopropyl-4-methoxybenzaldehyde was condensed with 2-oxindole to give 0.3 g of 3-(3-isopropyl-4-methoxybenzylidene)-1,3-dihydroindol-2-one as a yellow-orange solid.

reactant | 3-Isopropyl-4-methoxybenzaldehyde | C(C)(C)C=1C=C(C=O)C=CC1OC | C11H14O2
reactant | 2-oxindole | N1C(CC2=CC=CC=C12)=O | C8H7NO
product | 3-(3-isopropyl-4-methoxybenzylidene)-1,3-dihydroindol-2-one | 0.3 g | C(C)(C)C=1C=C(C=C2C(NC3=CC=CC=C23)=O)C=CC1OC | C19H19NO2
